US05409928
Preparation of 3-amino-4-(4-benzylphenyl)-2-carbamoylpyrazole
A mixture of α-formyl-4-benzylphenylacetonitrile (152.22 g), semicarbazide hydrochloride (72.24 g), methanol (400 ml) and water (80 ml) was stirred at room temperature, and after 18 hours, maintained pH to about 10 with 5N sodium hydroxide aqueous solution. When heat was generated, the reaction mixture was cooled with ice-water. After stirring at room temperature for 1 hour, the reaction mixture was neutralized with 10% hydrochloric acid, and water (1 l) was added. After stirring for 1 hour, the precipitate was separated by filtration, washed with water, and dried to give the title compound (165.52 g).

reactant | α-formyl-4-benzylphenylacetonitrile | 152.22 g | C(=O)C(C#N)C1=CC=C(C=C1)CC1=CC=CC=C1 | C16H13NO
reactant | semicarbazide hydrochloride | 72.24 g | Cl.NNC(=O)N
reactant | sodium hydroxide | 5N | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 1 l | O | H2O
solvent | water | 80 ml | O | H2O
solvent | methanol | 400 ml | CO | CH4O
product | 3-amino-4-(4-benzylphenyl)-2-carbamoylpyrazole | 165.52 g | NC=1N(N=CC1C1=CC=C(C=C1)CC1=CC=CC=C1)C(N)=O | C17H16N4O
